US08541588B2
5-chloro-2,4-difluoro-N-pyridazin-3-ylbenzenesulfonamide
Pyridazin-3-amine (1.00 g, 10.5 mmol) and triethylenediamine (1.18 g, 10.5 mmol) was added concurrently to a solution of 5-chloro-2,4-difluorobenzenesulfonyl chloride (2.60 g, 10.5 mmol) in acetonitrile (50 mL, 1000 mmol). The reaction mixture was stirred for 18 h then concentrated. The residue was dissolved in ethyl acetate (30 mL), washed with water, brine, dried over sodium sulfate and concentrated. The residue was purified on automated silica gel chromatography (chloroform to 50% of 10% methanol in chloroform) to give 800 mg of the desired product as a yellow solid.

reactant | Pyridazin-3-amine | 10.5 mmol, 1.00 g | N1=NC(=CC=C1)N | C4H5N3
reactant | triethylenediamine | 10.5 mmol, 1.18 g | C1CN2CCN1CC2 | C6H12N2
reactant | 5-chloro-2,4-difluorobenzenesulfonyl chloride | 10.5 mmol, 2.60 g | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)F)F | C6H2Cl2F2O2S
reactant | acetonitrile | 1000 mmol, 50 mL | C(C)#N | C2H3N
product | 5-chloro-2,4-difluoro-N-pyridazin-3-ylbenzenesulfonamide | 800 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=NC=CC1)F)F | C10H6ClF2N3O2S
